US07452892B2
B. Preparation of 7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidine-3,5(2H,6H)-dione
To a solution of 7,8-bis(4-chlorophenyl)-5-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (60 mg, 0.14 mmol) in DMF (0.5 mL) at room temperature under argon was added K2CO3 (25 mg, 0.18 mmol), followed by 5-(chloromethyl)-2-(trifluoromethyl)pyridine (28 mg, 0.14 mmol). The reaction mixture was stirred at 50° C. in a pre-heated oil bath for 30 min. After the reaction mixture was cooled to room temperature, water (5 mL) and EtOAc (5 mL) were added. The layers were separated. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product thus obtained was purified by preparative reverse phase HPLC (without TFA) to obtain 22.5 mg of the title compound as a white solid. HPLC/MS: retention time=3.871 min, [M+H]30 =532.

reactant | 7,8-bis(4-chlorophenyl)-5-(1H-imidazol-1-yl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.14 mmol, 60 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1C=NC=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C20H12Cl2N6O
reactant | K2CO3 | 0.18 mmol, 25 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 0.14 mmol, 28 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | water | 5 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidine-3,5(2H,6H)-dione | 22.5 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(N1)=O)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C24H14Cl2F3N5O2
